US06329381B1
6-Amino-9-benzyl-2-cyclohexylmethylthio-8-hydroxypurine
Crude 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine (134 mg, 0.49 mmol) was suspended in dimethylformamide (60 ml). To the suspension were added potassium carbonate (100 mg, 0.72 mmol) and cyclohexylmethyl bromide (0.1 ml, 0.7 mmol) in order. The mixture was stirred at room temperature for 9 hours. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (3% methanol/chloroform) to give the subject compound (93 mg, yield 51%).

reactant | 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine | 0.49 mmol, 134 mg | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=CC=C1)O | C12H11N5OS
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexylmethyl bromide | 0.7 mmol, 0.1 ml | C1(CCCCC1)CBr | C7H13Br
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 6-Amino-9-benzyl-2-cyclohexylmethylthio-8-hydroxypurine | 93 mg, yield 51% | NC1=C2N=C(N(C2=NC(=N1)SCC1CCCCC1)CC1=CC=CC=C1)O | C19H23N5OS
